US09056885B2
3-hydroxy-1-(dimethylamino)naphthalene
The title compound was synthesized in a similar manner as 11-hydroxy-2,3,5,6,7,8-hexahydro-1H-azepino[3,2,1-ij]quinolone starting from 3-methoxy-1-(dimethylamino)naphthalene: 1H NMR (DMSO-d6) δ 9.53 (s, 1H), 7.95 (d, 1H); 7.60 (d, 1H), 7.32 (ddd, 1H), 7.21 (ddd, 1H), 6.75 (d, 1H), 6.64 (d, 1H), 2.77 (s, 6H).

reactant | 11-hydroxy-2,3,5,6,7,8-hexahydro-1H-azepino[3,2,1-ij]quinolone | OC1=C2C(CCN3C2=C(C=C1)CCCC3)=O | C13H15NO2
reactant | 3-methoxy-1-(dimethylamino)naphthalene | COC=1C=C(C2=CC=CC=C2C1)N(C)C | C13H15NO
product | 3-hydroxy-1-(dimethylamino)naphthalene | OC=1C=C(C2=CC=CC=C2C1)N(C)C | C12H13NO
